US07495004B2
3-[7-(2-Chloro-6-fluorobenzyl)-3-isopropyl-2,6-dioxo-8-piperidin-1-yl-2,3,6,7-tetrahydro-1H-purin-1-yl]propanoic acid
A solution of methyl 3-[7-(2-chloro-6-fluorobenzyl)-3-isopropyl-2,6-dioxo-8-piperidin-1-yl-2,3,6,7-tetrahydro-1H-purin-1-yl]propanoate (9 mg, 0.018 mmol) in 150 μTHF and 50 μL H2O was treated with 18 μL 1 N LiOH. The reaction mixture was stirred at room temperature overnight and then treated with 18 μL 1 N acetic acid. The product was extracted into EtOAc and then the solvent was removed by reduced pressure. The crude product was purified by preparative thin layer chromatography (silica gel, 1 mm plate, EM Science 20×20 cm silica gel 60 F264) eluting with 100% EtOAc to give 3 mg (13% yield) of the title compound as a clear oil: 1H NMR (CDCl3, 400 MHz) 7.23-7.17 (m, 1H), 7.15-7.12 (m, 1H), 6.99-6.94 (m, 1H), 5.52 (s, 2H), 5.16-5.07 (m, 1H), 4.21 (t, 2H, J=6.9 Hz), 3.14-3.04 (m, 4H), 2.66 (t, 2H, J=6.9 Hz), 1.56-1.51 (m, 12H); MS (ESP+) m/e 492 (MH+); TLC (EtOAc:hexanes/1:1) Rf=0.61.

reactant | methyl 3-[7-(2-chloro-6-fluorobenzyl)-3-isopropyl-2,6-dioxo-8-piperidin-1-yl-2,3,6,7-tetrahydro-1H-purin-1-yl]propanoate | 0.018 mmol, 9 mg | ClC1=C(CN2C(=NC=3N(C(N(C(C23)=O)CCC(=O)OC)=O)C(C)C)N2CCCCC2)C(=CC=C1)F | C24H29ClFN5O4
reactant | H2O | 50 μL | O | H2O
reactant | LiOH | 1 N, 18 μL | [Li+].[OH-]
solvent | acetic acid | 1 N, 18 μL | C(C)(=O)O | C2H4O2
product | 3-[7-(2-Chloro-6-fluorobenzyl)-3-isopropyl-2,6-dioxo-8-piperidin-1-yl-2,3,6,7-tetrahydro-1H-purin-1-yl]propanoic acid | 3 mg, 13% yield | ClC1=C(CN2C(=NC=3N(C(N(C(C23)=O)CCC(=O)O)=O)C(C)C)N2CCCCC2)C(=CC=C1)F | C23H27ClFN5O4
